US05187188
1-Methylethyl-4,5-diphenyl-2-oxazoleacetate
Sodium (80 mg, 3.5 mg atom) was dissolved in isopropanol (21 mL) and ethyl-4,5-diphenyl-2-oxazoleacetate (1.00 g, 3.2 mmol) added. The mixture was heated at reflux for about 1.5 hours, cooled and concentrated. The residue was diluted with water, acidified to pH=2 with 1N HCl solution and extracted with CH2Cl2. The combined extracts were dried over MgSO4, the solvent removed and the residue chromatographed or a column of silica gel. Elution with a mixture of hexanes and EtOAc (9:1) gave the title compound (0.57 g, 54%). IR (film) 1740 cm-1 ; 1H NMR (CDCl3) δ1.26 (6H, d, J=6Hz, CO2CH(CH3)2), 3.89 (2H, s, CH2CO2iPr), 5.08 (1H, septuplet, OCH(CH3)2), 7.25 to 7.40 (6H, m, aromatic H), 7.50 to 7.65 (4H, m, aromatic H); MS m/z 322 (MH+).

reactant | Sodium | 80 mg | [Na] | Na
reactant | ethyl-4,5-diphenyl-2-oxazoleacetate | 3.2 mmol, 1.00 g | C(C)OC(CC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H17NO3
reactant | isopropanol | 21 mL | C(C)(C)O | C3H8O
product | 1-Methylethyl-4,5-diphenyl-2-oxazoleacetate | 0.57 g, 54% | CC(C)OC(CC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C20H19NO3
